US06455578B1
2-hydroxyacetophenone (20 g) is dissolved in ethyl acetate (200 ml). Sodium powder (16 g) is gradually added in 15-20 minutes, so to maintain a reasonable reflux. The mixture is refluxed for 1 hour, then it is allowed to cool. Grinded ice (200 g) is then added until precipitation of sodium acetylacetophenone, which is then isolated by filtration under vacuum. The solid product is then crystallised with acetic acid 40% (200 ml), obtaining acetyl acetophenone (19.6 g) as pulverulent crystals (m.p.=95° C.; yield=75%).

reactant | 2-hydroxyacetophenone | 20 g | OCC(=O)C1=CC=CC=C1 | C8H8O2
reactant | Sodium | 16 g | [Na] | Na
reactant | sodium acetylacetophenone | C(C)(=O)CC(=O)C1=CC=CC=C1.[Na]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | acetyl acetophenone | 19.6 g, yield=75% | C(C)(=O)CC(=O)C1=CC=CC=C1 | C10H10O2
